US08138189B2
Step 5: 2-(2-Chloro-5-methoxy-phenyl)-1-(2-chloro-pyridin-4-yl)-propan-1-one
2-(2-Chloro-5-methoxy-phenyl)-1-(2-chloro-pyridin-4-yl)-propan-1-ol (140 mg) was dissolved in CH2Cl2 (20 mL). To this solution was added 3 Å molecular sieves (140 mg) and then tetrapropylammonium perruthenate (15.8 mg) and 4-methyl-morpholine-4-oxide (121 mg). The mixture was allowed to stir for 2 hours. The reaction mixture was applied directly to a silica gel column and the column was eluted with ethyl acetate:heptane=3:7. The appropriate fractions were combined and evaporated to give the title compound as a colorless gum (113 mg, 81%). MS (neg. ion, m/e)=308.4 [(M−H)−].

reactant | 2-(2-Chloro-5-methoxy-phenyl)-1-(2-chloro-pyridin-4-yl)-propan-1-ol | 140 mg | ClC1=C(C=C(C=C1)OC)C(C(O)C1=CC(=NC=C1)Cl)C | C15H15Cl2NO2
reactant | 4-methyl-morpholine-4-oxide | 121 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | tetrapropylammonium perruthenate | 15.8 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 2-(2-Chloro-5-methoxy-phenyl)-1-(2-chloro-pyridin-4-yl)-propan-1-one | 113 mg, 81% | ClC1=C(C=C(C=C1)OC)C(C(=O)C1=CC(=NC=C1)Cl)C | C15H13Cl2NO2
